US05026712
8-[4-(Acetylamino)phenyl]-5,6-dihydro-3-methylimidazo[1,5-a]pyridine
Combine 20 g (83.4 mmol) of N-[4-(4-chloro-l-oxo-butan-1-yl)phenyl] acetamide with 50 g (0.61 mol) of 2methylimidazole and heat to 175° C. for 18 hr. Crystallization from ethyl acetate provides the title compound.

reactant | N-[4-(4-chloro-l-oxo-butan-1-yl)phenyl] acetamide | 83.4 mmol, 20 g | ClCCCC(=O)C1=CC=C(C=C1)NC(C)=O | C12H14ClNO2
reactant | 2methylimidazole | 0.61 mol, 50 g | CC=1NC=CN1 | C4H6N2
product | 8-[4-(Acetylamino)phenyl]-5,6-dihydro-3-methylimidazo[1,5-a]pyridine | C(C)(=O)NC1=CC=C(C=C1)C=1C=2N(CCC1)C(=NC2)C | C16H17N3O
